US05668614
30 g (150 mmol) 4-(benzyloxy)phenol and 22.35 g 1-bromo-pentane (150 mmol) were dissolved in 250 ml acetone. The solution was heated to 80° C. and stirred with a mechanical stirrer. At this temperature, 118.5 g K2CO3 (1.09 mol) was added in one portion. The resulting heterogeneous solution was allowed to stir at 80° C. for 16 hours. The reaction was monitored by TLC until completion. Excess K2CO3 and the byproduct KBr were removed by filtration. The solution was then acidified with concentrated HCl. Evaporation of the solvent resulted in a light yellow colored oil. No further purifications were needed to obtain the 1-pentyloxy-4-(benzyloxy)phenyl ether intermediate.

reactant | 4-(benzyloxy)phenol | 150 mmol, 30 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | 1-bromo-pentane | 150 mmol, 22.35 g | BrCCCCC | C5H11Br
reactant | K2CO3 | 1.09 mol, 118.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 1-pentyloxy-4-(benzyloxy)phenyl ether | C(CCCC)OC1(CC=C(C=C1)OCC1=CC=CC=C1)OC1(CC=C(C=C1)OCC1=CC=CC=C1)OCCCCC | C36H46O5
